US07425634B2
(4d) methyl(8-ethyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)acetate
The 1,3-dioxolan-2,2-diyldimethanol (4 g, 29.8 mmol), which was obtained at another time in the same manner as described in the steps (4a)-(4c), was mixed with methyl propionylacetate (5.6 ml, 44.6 mmol) and triethyl orthoformate (5.2 ml, 31.3 mmol), and p-toluenesulfonic acid monohydrate (163 mg, 0.856 mmol). The mixture was stirred at room temperature for 3 hours. To the mixture, a saturated aqueous solution of sodium hydrogen carbonate and ethyl acetate were added. The organic layer was washed with water twice and with an aqueous saline solution, dried over anhydrous sodium sulfate and concentrated. The obtained crude product was purified by silica gel column chromatography (elution solvent: heptane/ethyl acetate=1/0-3/1-1/1 gradient) and a desired fraction(s) was concentrated to obtain the title compound (2.63 g, yield: 35.8%) as a colorless oil.

reactant | 1,3-dioxolan-2,2-diyldimethanol | 29.8 mmol, 4 g | O1C(OCC1)(CO)CO | C5H10O4
reactant | methyl propionylacetate | 44.6 mmol, 5.6 ml | C(CC)(=O)CC(=O)OC | C6H10O3
reactant | triethyl orthoformate | 31.3 mmol, 5.2 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | p-toluenesulfonic acid monohydrate | 0.856 mmol, 163 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl(8-ethyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)acetate | 2.63 g, yield: 35.8% | COC(CC1(OCC2(OCCO2)CO1)CC)=O | C11H18O6
